US04053312
B. 4-(N,N-didodecylsulfamyl)-2-(p-methoxyphenylazo)-1-naphthol
A solution of 30.7 g (0.027 mole) crude 4-(N,N-didodecylsulfamyl)-1-naphthol in a mixture of 100 ml tetrahydrofuran, 100 ml methanol, and 4.2 ml 50% sodium hydroxide solution was cooled in an ice-acetone bath and treated with a diazonium salt solution prepared from 3.30 g (0.027 mole) p-anisidine in 20 ml water containing 4.5 ml concentrated hydrochloric acid and 1.85 g (0.027 mole) sodium nitrite in 5 ml of water. The mixture was stirred at 0°-10° C. for 2 hr., allowed to warm to room temperature, and filtered to give 14.6 g of red brown solid. This solid was recrystallized from hexane to give 8.2 g of a bright red powder, m.p. 100°-102° C.

reactant | 4-(N,N-didodecylsulfamyl)-1-naphthol | 0.027 mole, 30.7 g | C(CCCCCCCCCCC)N(S(=O)(=O)C1=CC=C(C2=CC=CC=C12)O)CCCCCCCCCCCC | C34H57NO3S
reactant | sodium hydroxide | 4.2 ml | [OH-].[Na+]
reactant | p-anisidine | 0.027 mole, 3.30 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | sodium nitrite | 0.027 mole, 1.85 g | N(=O)[O-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 4-(N,N-didodecylsulfamyl)-2-(p-methoxyphenylazo)-1-naphthol | 14.6 g | C(CCCCCCCCCCC)N(S(=O)(=O)C1=CC(=C(C2=CC=CC=C12)O)N=NC1=CC=C(C=C1)OC)CCCCCCCCCCCC | C41H63N3O4S
